US08058276B2
Step 12.2: 6-Methoxy-benzo[b]thiophene-3-carboxylic acid ethyl ester
306 g Polyphosphoric acid (Riedel-de-Haen 04101) are heated up to 70° C. Then 250 ml chlorobenzene are added, followed by a solution of 50.5 g (0.2 Mol) of crude 3-(3-methoxy-phenylsulfanyl)-2-oxo-propionic acid ethyl ester in 280 ml chlorobenzene. The mixture is heated up to 112° C. for 4 h. From the resulting 2-phasic hot mixture, the yellow-brownish upper layer is sucked off. The black lower phase is extracted by 3 portions of 250 ml boiling toluene. The upper layer and the 3 toluene extracts are combined and concentrated in vacuo (→crude 1). The residue from the black lower phase is hydrolysed in 7 l water. Extraction with 2 portions of CH2Cl2 gives more material (→crude 2). Both batches (crude 1 & 2) are combined and diluted with CH2Cl2, water and sat. NaHCO3. The aq. phase is separed off and extracted twice with CH2Cl2. The organic layers are washed twice with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; hexane/CH2Cl2 9:1→7:3→1:1) and crystallization from hexane at −20° C. gives the title compound: m.p.: 68-69° C.; TLC(hexane/acetone 4:1): Rf=0.47.

reactant | 3-(3-methoxy-phenylsulfanyl)-2-oxo-propionic acid ethyl ester | 0.2 Mol, 50.5 g | C(C)OC(C(CSC1=CC(=CC=C1)OC)=O)=O | C12H14O4S
solvent | chlorobenzene | 280 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chlorobenzene | 250 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 6-Methoxy-benzo[b]thiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C2=C(SC1)C=C(C=C2)OC | C12H12O3S
